US06303627B1
1-phenoxycarbonyl-2-methyl-4-(naphth-2-yl)-1,2,3,6-tetrahydropyridine
A mixture of 5.46 gm (31.8 mMol) naphthalene-2-boronic acid, 8.28 gm (22.7 mMol) 1-phenoxycarbonyl-2-methyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine, 0.741 gm (0.91 mMol) palladium(II) diphenylphosphino-ferrocenyl chloride, and 2.88 gm (68 mMol) lithium chloride in 25 mL 2M aqueous sodium carbonate and 96 mL dimethoxyethane was heated at reflux for about 18 hours. The reaction mixture was cooled to room temperature and was diluted with ethyl acetate and saturated aqueous sodium carbonate. The phases were separated and the organic phase was washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, eluting with hexane containing 10% ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 3.87 gm (50%) of the title compound as a viscous oil.

reactant | naphthalene-2-boronic acid | 31.8 mMol, 5.46 gm | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | 1-phenoxycarbonyl-2-methyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine | 22.7 mMol, 8.28 gm | O(C1=CC=CC=C1)C(=O)N1C(CC(=CC1)OS(=O)(=O)C(F)(F)F)C | C14H14F3NO5S
reactant | lithium chloride | 68 mMol, 2.88 gm | [Cl-].[Li+]
solvent | sodium carbonate | 2M, 25 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 96 mL | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) diphenylphosphino-ferrocenyl chloride | 0.91 mMol, 0.741 gm | C1(=CC=CC=C1)P(C1=CC=CC=C1)C=1[C-](C=CC1)Cl.[CH-]1C=CC=C1.[Fe+2].[Pd+2]
product | 1-phenoxycarbonyl-2-methyl-4-(naphth-2-yl)-1,2,3,6-tetrahydropyridine | 3.87 gm, 50% | O(C1=CC=CC=C1)C(=O)N1C(CC(=CC1)C1=CC2=CC=CC=C2C=C1)C | C23H21NO2
